US04203989
1-[2-(1-azabicyclo[2.2.2]octan-2-yl)-1,1-diphenylethyl] cyclopentanol (XI)
A solution of 20.4 parts 2-(2,2-diphenylethyl)-1-azabicyclo[2.2.2]octane, 10.5 parts by volume of N,N,N',N'-tetramethylethylenediamine, 48 parts by volume of a 1.6 M solution of butyllithium in hexane in 500 parts by volume of cyclohexane is heated to reflux while being stirred for 1.2 hours under nitrogen. The reaction mixture is cooled to 10 and 6.8 parts by volume of cyclopentanone is added during 5 minutes. It is washed four times with water and one time with saturated sodium chloride solution, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residual solid is triturated with 40 parts diethyl ether and filtered. The filtrate is evaporated under reduced pressure to give residual solid and oil. This residue is put on a 25 mm volume of Woelm silica gel and eluted with a mixed solvent of ethanol, concentrated ammonia and toluene (ratio 2:0.25:98) under a pressure to maintain a flow rate of 8 ml per minute. The desired fraction is evaporated under reduced pressure giving residual oil which solidifies. The solid is washed with n-pentane and recrystallized from diethylether giving the product as a white solid: (XI) 1-[2-(1-azabicyclo [2.2.2]octan-2-yl)-1,1-diphenylethyl]cyclopentanol m.p. 178°-179.5°, MW 376. The hydrochloride of this compound is crystallized from a mixed solvent of isopropanol and diethyl ether: 1-[2-(1-azabicyclo[2.2.2]octan-2-yl)-1,1-diphenylethyl] cyclopentanol hydrochloride (XVII); m.p. 247°-249°; MW 412.

reactant | 2-(2,2-diphenylethyl)-1-azabicyclo[2.2.2]octane | C1(=CC=CC=C1)C(CC1N2CCC(C1)CC2)C2=CC=CC=C2 | C21H25N
reactant | N,N,N',N'-tetramethylethylenediamine | CN(CCN(C)C)C | C6H16N2
reactant | butyllithium | C(CCC)[Li]
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
solvent | hexane | CCCCCC | C6H14
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-[2-(1-azabicyclo[2.2.2]octan-2-yl)-1,1-diphenylethyl] cyclopentanol | N12C(CC(CC1)CC2)CC(C2=CC=CC=C2)(C2=CC=CC=C2)C2(CCCC2)O | C26H33NO
